### PR TITLE
[Merged by Bors] - feat(Algebra/Ring/Invertible): add `eq_of_invOf_add_eq_invOf_add_invOf`

### PR DESCRIPTION
**Pull request by izanbf1803**
Formalize statement and prove eq_of_invOf_add_eq_invOf_add_invOf 
⅟(a + b) = ⅟a + ⅟b → a * ⅟b * a = b * ⅟a * b (for a, b in a ring; a, b invertible)

This will be useful to formalize a proof in https://github.com/eric-wieser/lean-matrix-cookbook.

### CODE REVIEW

File: Mathlib/Algebra/Ring/Invertible.lean [hunk 1]
```diff
@@ -45,6 +45,35 @@ theorem invOf_sub_invOf [Ring R] (a b : R) [Invertible a] [Invertible b] :
     ⅟a - ⅟b = ⅟a * (b - a) * ⅟b := by
   rw [mul_sub, invOf_mul_self, sub_mul, one_mul, mul_assoc, mul_invOf_self, mul_one]
 
+theorem eq_of_invOf_add_eq_invOf_add_invOf [Ring R] (a b : R) [Invertible a] [Invertible b]
+    [Invertible (a + b)] : ⅟(a + b) = ⅟a + ⅟b → a * ⅟b * a = b * ⅟a * b := by
+  intro h
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/Invertible.lean]:
```suggestion
    [Invertible (a + b)] (h : ⅟(a + b) = ⅟a + ⅟b) :
    a * ⅟b * a = b * ⅟a * b := by
```

**Comment by eric-wieser** [comment]
Gemini seems to think this result is called "the Hua-Jacobson identity", but I have not been able to find a source for that. Certainly https://en.wikipedia.org/wiki/Hua%27s_identity looks related. Perhaps another reviewer can see the connection.

**Comment by izanbf1803** [comment]
To me it doesn't look equivalent to the "Hua-Jacobson identity", but I didn't prove they are independent.

File: Mathlib/Algebra/Ring/Invertible.lean [hunk 2]
```diff
@@ -45,6 +45,35 @@ theorem invOf_sub_invOf [Ring R] (a b : R) [Invertible a] [Invertible b] :
...
+    have : 1 = 2 + ⅟a * b + ⅟b * a := by
+      rw [← invOf_mul_self (a + b), h, add_mul, mul_add, mul_add, invOf_mul_self a,
+          invOf_mul_self b, ← add_assoc, add_assoc 1 _, add_comm 1 _, add_assoc 2 _,
+          add_comm 2 _, add_assoc, one_add_one_eq_two]
+    apply (add_left_inj 2).mp
+    conv => lhs; rw [← one_add_one_eq_two, ← add_assoc, neg_add_cancel, zero_add]
+    rw [add_comm, ← add_assoc]
+    exact this
+  let helper {x y : R} [Invertible x] [Invertible y] (h' : -1 = ⅟x * y + ⅟y * x)
+      : -(y + x) = x * ⅟y * x := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/Invertible.lean]: Better as
```suggestion
  have helper {x y : R} [Invertible x] [Invertible y] (h' : -1 = ⅟x * y + ⅟y * x) :
      -(y + x) = x * ⅟y * x := by
```
`let` is reserved for data.

File: Mathlib/Algebra/Ring/Invertible.lean [hunk 3]
```diff
@@ -45,6 +45,35 @@ theorem invOf_sub_invOf [Ring R] (a b : R) [Invertible a] [Invertible b] :
...
+    apply (add_left_inj y).mp
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/Invertible.lean]: I think this is the same as 
```suggestion
    apply add_right_cancel y
```
or similar?

File: Mathlib/Algebra/Ring/Invertible.lean [hunk 4]
```diff
@@ -45,6 +45,35 @@ theorem invOf_sub_invOf [Ring R] (a b : R) [Invertible a] [Invertible b] :
...
+    rw [(by simp : -(y + x) + y = -x)]
+    conv => rhs; rhs; rw [(by simp : y = x * ⅟x * y)]
+    rw [mul_assoc, mul_assoc, ← mul_add x]
+    rw [(by simp : -x = x * (-1))]
+    apply (mul_right_inj_of_invertible x).mpr
+    rw [add_comm]
+    exact h'
+  have h_a_binv_a : -(b + a) = a * ⅟b * a := by
+    exact helper h_neg_identity
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/Invertible.lean]: May as well golf to
```suggestion
  have h_a_binv_a : -(b + a) = a * ⅟b * a := helper h_neg_identity
```

**Review by eric-wieser — COMMENTED** [review]
Since I suggested making this PR, someone else should probably be the one to review it for naming / appropriateness for mathlib.

File: Mathlib/Algebra/Ring/Invertible.lean (hunk 3 above)
Comment (izanbf1803) [reply Mathlib/Algebra/Ring/Invertible.lean]: `apply add_right_cancel` works!

File: Mathlib/Algebra/Ring/Invertible.lean [hunk 5]
```diff
@@ -45,6 +45,34 @@ theorem invOf_sub_invOf [Ring R] (a b : R) [Invertible a] [Invertible b] :
...
+  have helper {x y : R} [Invertible x] [Invertible y] (h' : -1 = ⅟x * y + ⅟y * x)
+      : -(y + x) = x * ⅟y * x := by
+    apply add_right_cancel
+    rw [(by simp : -(y + x) + y = -x)]
+    conv => rhs; rhs; rw [(by simp : y = x * ⅟x * y)]
+    rw [mul_assoc, mul_assoc, ← mul_add x]
+    rw [(by simp : -x = x * (-1))]
+    apply (mul_right_inj_of_invertible x).mpr
+    rw [add_comm]
+    exact h'
```
Comment (ocfnash) [inline Mathlib/Algebra/Ring/Invertible.lean]: This proof is very hard to read (and must have been even harder to write!). How about we break out  `helper` as a lemma in its own right and use `calc` notation like this:
```lean
theorem neg_add_eq_mul_invOf_mul_same_iff [Ring R] {a b : R} [Invertible a] [Invertible b] :
    -(b + a) = a * ⅟b * a ↔ -1 = ⅟a * b + ⅟b * a :=
  calc -(b + a) = a * ⅟b * a
      ↔ -a = b + a * ⅟b * a := ⟨by grind, fun h ↦ by simp [h]⟩
    _ ↔ -a = a * ⅟a * b + a * ⅟b * a := by rw [mul_invOf_self, one_mul]
    _ ↔ -a = a * (⅟a * b + ⅟b * a) := by simp only [mul_add, mul_assoc]
    _ ↔ -1 = ⅟a * b + ⅟b * a := ⟨fun h ↦ by simpa using congr_arg (⅟a * ·) h, fun h ↦ by simp [← h]⟩
```
and then below use this instead of `helper`:
```suggestion
```
I haven't checked but the other identity `h_neg_identity` might benefit from a similar treatment

Comment (izanbf1803) [reply Mathlib/Algebra/Ring/Invertible.lean]: What does the `same` mean in `neg_add_eq_mul_invOf_mul_same_iff `? I am still trying to understand the convention.

Comment (izanbf1803) [reply Mathlib/Algebra/Ring/Invertible.lean]: How should I name h_neg_identity?
```
lemma inv_mul_add_inv_mul_eq_neg_one_of_inv_add_eq_inv_add [Ring R] {a b : R} [Invertible a] [Invertible b] [Invertible (a + b)]
  (h : ⅟(a + b) = ⅟a + ⅟b) : -1 = ⅟a * b + ⅟b * a := by
    have : 1 = 2 + ⅟a * b + ⅟b * a := by
      rw [← invOf_mul_self (a + b), h, add_mul, mul_add, mul_add, invOf_mul_self a,
          invOf_mul_self b, ← add_assoc, add_assoc 1 _, add_comm 1 _, add_assoc 2 _,
          add_comm 2 _, add_assoc, one_add_one_eq_two]
    apply (add_left_inj 2).mp
    conv => lhs; rw [← one_add_one_eq_two, ← add_assoc, neg_add_cancel, zero_add]
    rw [add_comm, ← add_assoc]
    exact this
```
`inv_mul_add_inv_mul_eq_neg_one_of_inv_add_eq_inv_add` feels too long, but `eq_of_invOf_add_eq_invOf_add_invOf` is already the name of the main theorem I want to prove.

File: Mathlib/Algebra/Ring/Invertible.lean [hunk 6]
```diff
@@ -88,6 +88,35 @@ theorem invOf_sub_invOf [Ring R] (a b : R) [Invertible a] [Invertible b] :
...
+lemma neg_add_eq_mul_invOf_mul_same_iff [Ring R] {a b : R} [Invertible a] [Invertible b] :
+    -(b + a) = a * ⅟b * a ↔ -1 = ⅟a * b + ⅟b * a :=
+  calc -(b + a) = a * ⅟b * a
+      ↔ -a = b + a * ⅟b * a := ⟨by grind, fun h ↦ by simp [h]⟩
+    _ ↔ -a = a * ⅟a * b + a * ⅟b * a := by rw [mul_invOf_self, one_mul]
+    _ ↔ -a = a * (⅟a * b + ⅟b * a) := by simp only [mul_add, mul_assoc]
+    _ ↔ -1 = ⅟a * b + ⅟b * a := ⟨fun h ↦ by simpa using congr_arg (⅟a * ·) h, fun h ↦ by simp [← h]⟩
+
+lemma neg_one_eq_of_invOf_add_eq_add_invOf [Ring R] {a b : R} [Invertible a]
+    [Invertible b] [Invertible (a + b)] (h : ⅟(a + b) = ⅟a + ⅟b) : -1 = ⅟a * b + ⅟b * a := by
```
Comment (ocfnash) [inline Mathlib/Algebra/Ring/Invertible.lean]: I believe the converse also holds; could you upgrade this to:
```suggestion
lemma neg_one_eq_invOf_mul_add_invOf_mul_iff [Ring R] {a b : R} [Invertible a]
    [Invertible b] [Invertible (a + b)] :
    -1 = ⅟a * b + ⅟b * a ↔ ⅟(a + b) = ⅟a + ⅟b := by
```
and use that below instead?

Comment (ocfnash) [reply Mathlib/Algebra/Ring/Invertible.lean]: (hopefully a `calc` -style proof similar to the lemma above will be possible, but it is not essential)

Comment (izanbf1803) [reply Mathlib/Algebra/Ring/Invertible.lean]: Fair enough, it is an iff actually. New commit ready!

**Comment by ocfnash** [comment]
Thanks!

bors merge
